US05135937
5.0 g of 4-[1-(imidazolyl)methyl]benzonitrile is dissolved in 150 ml of tetrahydrofuran and combined at -50° with 20 ml of 1.5-molar solution of lithium diisopropylamide in tetrahydrofuran, stirred for 0.5 hour at -60°, combined with 2.5 g of cyclopentanone, further stirred for 1 hour, and heated to 25°. Then water is added to the mixture, the latter is diluted with ethyl acetate, washed neutral with water, dried over sodium sulfate, and concentrated to dryness under vacuum, yielding 6.9 g of crude 4-[1-hydroxycyclopent-1-yl-1-(imidazolyl)methyl]benzonitrile.

reactant | 4-[1-(imidazolyl)methyl]benzonitrile | 5.0 g | N1C(=NC=C1)CC1=CC=C(C#N)C=C1 | C11H9N3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclopentanone | 2.5 g | C1(CCCC1)=O | C5H8O
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-hydroxycyclopent-1-yl-1-(imidazolyl)methyl]benzonitrile | 6.9 g | OC1(CCCC1)C(C=1NC=CN1)C1=CC=C(C#N)C=C1 | C16H17N3O
